US04684640
Sodium 3-(4-fluorophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 500 mg of 4-nitrobenzyl 3-(4-fluorophenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 101 mg of sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 25° for 60 minutes. Then the reaction mixture was filtered through Celite, and then lyophilised to yield 348 mg of the title compound as a pale yellow crystalline solid (95% of the theoretical yield).

reactant | 4-nitrobenzyl 3-(4-fluorophenoxy)-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 500 mg | FC1=CC=C(OC2=C(N3CCC3S2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C19H15FN2O5S
reactant | sodium bicarbonate | 101 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 3-(4-fluorophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 348 mg | FC1=CC=C(OC2=C(N3C(CC3S2)=O)C(=O)[O-])C=C1.[Na+] | InChI=1S/C12H8FNO4S.Na/c13-6-1-3-7(4-2-6)18-12-10(11(16)17)14-8(15)5-9(14)19-12;/h1-4,9H,5H2,(H,16,17);/q;+1/p-1
